US04353827
1.5 g (4.2 mmol) of t-butyl (S)-7-amino-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate and 0.783 g (4.4 mmol) of N-bromosuccinimide in 15 ml of dimethylformamide are stirred at room temperature for 45 minutes, subsequently poured into 250 ml of water and extracted three times with chloroform. The chloroform solution is washed three times with water, dried over magnesium sulphate and evaporated. The residue obtained is chromatographed on silica gel using chloroform containing 4% methanol for the elution. Recrystallization of the material obtained from ethyl acetate yields t-butyl (S)-7-amino-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 245°-246°.

reactant | t-butyl (S)-7-amino-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 4.2 mmol, 1.5 g | NC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)OC(C)(C)C)CCC3)=O)C1 | C19H22N4O3
reactant | N-bromosuccinimide | 4.4 mmol, 0.783 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 250 ml | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | t-butyl (S)-7-amino-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | NC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)OC(C)(C)C)CCC3)=O)C1Br | C19H21BrN4O3
